US07173040B2
NaH 60% in oil (0.0023 mol) was added at room temperature to a mixture of 4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2(1H)-quinolinone (0.0021 mol), obtained in Example B32, in DMF (10 ml). The mixture was stirred for 30 minutes. 4-(Bromomethyl)-benzonitrile (0.0023 mol) was added. The mixture was stirred at room temperature for 18 hours, then at 80° C. for 2 hours, then overnight, cooled and poured out into ice water. The precipitate was filtered, taken up in DCM. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated. The residue (0.8 g) was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 100/0 to 90/10; 10 μm). The pure fractions were collected and the solvent was evaporated. The residue (0.1 g) was purified by column chromatography over kromasil (eluent: CH3CN/H2O 60/40; 10 μm). The pure fractions were collected and the solvent was evaporated, yielding 0.078 g (6%) of 4-[[4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2-oxo-1(2H)-quinolinyl]methyl]-benzonitrile, mp. 185° C.

reactant | NaH | [H-].[Na+]
reactant | 4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2(1H)-quinolinone | 0.0021 mol | ClC=1C=C(C=CC1)C1=CC(NC2=CC=C(C=C12)C(C1=NN=CN1C)(O)C1=CC=C(C=C1)Cl)=O | C25H18Cl2N4O2
reactant | 4-(Bromomethyl)-benzonitrile | 0.0023 mol | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-[[4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-2-oxo-1(2H)-quinolinyl]methyl]-benzonitrile | 0.078 g, 6% | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=NN=CN1C)(O)C1=CC=C(C=C1)Cl)CC1=CC=C(C#N)C=C1)=O | C33H23Cl2N5O2
